US08536179B2
d) 6-Bromo-N-{[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}-1-(1-methylethyl)-1H-indole-4-carboxamide
In a 50 mL round bottom was added 1,1-dimethylethyl {[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}carbamate (500 mg, 1.777 mmol) and Dichloromethane (DCM) (20.00 mL). TFA (1.095 mL, 14.22 mmol) was added and the reaction stirred at rt for 3.5 h. The LCMS indicated deprotection. The reaction was evaporated and evaporated from DCM. Dimethyl Sulfoxide (DMSO) (20 mL) was added to the round bottom followed by 6-bromo-1-(1-methylethyl)-1H-indole-4-carboxylic acid (501 mg, 1.777 mmol), to the solution was added N-methylmorpholine (1.172 mL, 10.66 mmol) 1-hydroxy-7-azabenzotriazole (363 mg, 2.67 mmol) and EDC (511 mg, 2.67 mmol). The reaction stirred at rt for 12 hr. The reaction was poured onto Ice water (10 mL) and was stirred for 20 min let it rest for 10 min and filter. Rinse solid with water (10 mL). Purification of solid by reverse phase Gilson HPLC (10-90% acetonitrile/water+0.1% TFA, YMC ODS-A C18 Column 75×30 mm ID S-5 um, 12 nM Column 7 minutes) provided the desired product as a white solid after neutralization with 0.1N NaOH and evaporation and precipitation from water. 6-bromo-N-{[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}-1-(1-methylethyl)-1H-indole-4-carboxamide (240 mg, 0.523 mmol, 29.4% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.70 (s, 1H) 8.87 (m, 1H) 7.93 (s, 1H) 7.57-7.71 (m, 2H) 6.89 (d, J=3.28 Hz, 1H) 6.71 (m, 1H) 5.66 (s, 1H) 4.82 (m, 1H) 4.34 (d, J=5.81 Hz, 2H) 3.12-3.23 (m, 2H) 2.08 (s, 3H) 1.43 (d, J=6.57 Hz, 6H) 1.18 (t, 3H) MS (ES) [M+H]+ 445.1.

reactant | 1,1-dimethylethyl {[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}carbamate | 1.777 mmol, 500 mg | C(C)NC1=C(C(NC(=C1)C)=O)CNC(OC(C)(C)C)=O | C14H23N3O3
reactant | TFA | 14.22 mmol, 1.095 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-bromo-1-(1-methylethyl)-1H-indole-4-carboxylic acid | 1.777 mmol, 501 mg | BrC=1C=C(C=2C=CN(C2C1)C(C)C)C(=O)O | C12H12BrNO2
reactant | N-methylmorpholine | 10.66 mmol, 1.172 mL, 363 mg | CN1CCOCC1 | C5H11NO
reactant | EDC | 2.67 mmol, 511 mg
solvent | Dichloromethane | 20.00 mL | ClCCl | CH2Cl2
product | 6-Bromo-N-{[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}-1-(1-methylethyl)-1H-indole-4-carboxamide | BrC=1C=C(C=2C=CN(C2C1)C(C)C)C(=O)NCC=1C(NC(=CC1NCC)C)=O | C21H25BrN4O2
